US04150137
To a mixture of 2.24 g of 2-(p-isobutylphenyl)propionic acid chloride and 2.10 g of p-methoxybenzyl alcohol in 20 ml of tetrahydrofuran was added 1.50 g of triethylamine under cooling and the whole was stirred for 2 hours. After the reaction was complete, an insoluble matter produced was removed by filtration. The solvent was removed from the filtrate by distillation under reduced pressure. To the residue thus obtained was added water and the resulting mixture was extracted with ether. The ether layer separated was washed with successive, 5% sodium carbonate solution, 5% hydrochloric acid solution and water, and then dehydrated. The ether was removed by distillation to give an oily product. Distillation of this product under reduced pressure yielded 2.81 g of 2-(p-isobutylphenyl)propionic acid-p-methoxybenzyl ester as a colorless oil, boiling at 149°-151° C./0.1 mmHg. Analysis-Calculated for C21H26O3 : C, 77.27; H, 8.03. Found: C, 77.11; H, 8.12.

reactant | 2-(p-isobutylphenyl)propionic acid chloride | 2.24 g | C(C(C)C)C1=CC=C(C=C1)C(C(=O)Cl)C | C13H17ClO
reactant | p-methoxybenzyl alcohol | 2.10 g | COC=1C=CC(=CC1)CO | C8H10O2
reactant | triethylamine | 1.50 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(p-isobutylphenyl)propionic acid-p-methoxybenzyl ester | 2.81 g | COC1=CC=C(COC(C(C)C2=CC=C(C=C2)CC(C)C)=O)C=C1 | C21H26O3
